US07863450B2
A mixture of 4-(4,4-dimethyl-4,5-dihydro-1,3-oxazol-2-yl)phenol ax7 (5 g, 26 mmol, 1 eq), potassium carbonate (7.19 g, 52 mmol, 2 eq), and 1-bromo-3-chloropropane (2.8 ml, 29 mmol, 1.1 eq) in acetone (120 ml) is stirred at reflux for 36 h. The mixture is then concentrated; the residue is dissolved in dichloromethane, and washed with a saturated solution of aqueous ammonium chloride. The organic layer is dried over magnesium sulfate and concentrated under vacuum to obtain 2-[4-(3-chloropropoxy)phenyl]-4,4-dimethyl-4,5-dihydro-1,3-oxazole ax10 as a white solid (6.75 g).

reactant | 4-(4,4-dimethyl-4,5-dihydro-1,3-oxazol-2-yl)phenol | CC1(N=C(OC1)C1=CC=C(C=C1)O)C | C11H13NO2
reactant | potassium carbonate | 52 mmol, 7.19 g, 2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 29 mmol, 2.8 ml, 1.1 eq | BrCCCCl | C3H6BrCl
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | 2-[4-(3-chloropropoxy)phenyl]-4,4-dimethyl-4,5-dihydro-1,3-oxazole | Yield: 97% | ClCCCOC1=CC=C(C=C1)C=1OCC(N1)(C)C | C14H18ClNO2
